US04245088
In N,N-dimethylformamide (20 ml) was dissolved 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid sodium salt (3.86 g) and, at -5° C., triethylamine (1.40 ml) and diketene (1.50 ml) were added. The reaction was carried out at -5°-0° C. for 1 hour, after which time the reaction mixture was poured in ice-water (200 ml). The mixture was adjusted to pH 2.0 with 4N-hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was rinsed with water, diluted with water, brought to pH 7.0 with 5% aqueous sodium hydrogen carbonate solution and separated. The water layer was taken, concentrated and subjected to column-chromatography on Amberlite XAD-2, elution being carried out with water-methanol. The eluate was lyophilized. The above procedure provided 7β-(2-thienylacetamido)-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid sodium salt (4.48 g).

reactant | 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid sodium salt | 3.86 g | [Na+].S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O
reactant | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | diketene | 1.50 ml | C=C1CC(=O)O1 | C4H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7β-(2-thienylacetamido)-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid sodium salt | 4.48 g | [Na+].S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)[O-])C1=O | InChI=1S/C18H18N2O7S2.Na/c1-9(21)5-13(23)27-7-10-8-29-17-14(16(24)20(17)15(10)18(25)26)19-12(22)6-11-3-2-4-28-11;/h2-4,14,17H,5-8H2,1H3,(H,19,22)(H,25,26);/q;+1/p-1/t14-,17-;/m1./s1
